US06437194B2
The same procedures as Example 29 were carried out for reacting 270 g of the reaction product which was obtained in the hydrogenation step and composed primarily of one molar ethylene oxide adduct of nonylcyclohexanol with 265 g of ethylene oxide. Nonylcyclohexanol ethylene oxide adduct thus obtained was analyzed with liquid chromatography. The product contained 80 ppm by weight or less in the sum of nonylphenol and nonylphenol ethylene oxide adduct.

reactant | ethylene oxide | one molar | C1CO1 | C2H4O
reactant | nonylcyclohexanol | C(CCCCCCCC)C1(CCCCC1)O | C15H30O
reactant | ethylene oxide | 265 g | C1CO1 | C2H4O
product | Nonylcyclohexanol ethylene oxide | C1CO1.C(CCCCCCCC)C1(CCCCC1)O | InChI=1S/C15H30O.C2H4O/c1-2-3-4-5-6-7-9-12-15(16)13-10-8-11-14-15;1-2-3-1/h16H,2-14H2,1H3;1-2H2
